US08026279B2
{[(1-Isobutanoyloxyethoxy)carbonyl]aminomethyl}-1-Cyclohexane Acetic Acid
To a solution of gabapentin (6.8 g, 0.04 mole) in water (40 mL) is added a solution of [(1-isobutanoyloxyethoxy)carbonyloxy]succinimide (10 g, 0.036 mol) in acetonitrile (40 mL) over a period of 30 minutes. The reaction is stirred at ambient temperature for 3 hours. The reaction mixture is diluted with methyl tert-butyl ether (200 mL), washed with water (2×100 mL) and brine (50 mL). The organic phase is separated, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo to afford the title compound as a white solid (12 g, quantitative).

reactant | gabapentin | 0.04 mole, 6.8 g | C1CCC(CC1)(CC(=O)O)CN | C9H17NO2
reactant | [(1-isobutanoyloxyethoxy)carbonyloxy]succinimide | 0.036 mol, 10 g | C(C(C)C)(=O)OC(C)OC(=O)OC1C(=O)NC(C1)=O | C11H15NO7
solvent | water | 40 mL | O | H2O
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
solvent | methyl tert-butyl ether | 200 mL | C(C)(C)(C)OC | C5H12O
product | {[(1-Isobutanoyloxyethoxy)carbonyl]aminomethyl}-1-Cyclohexane Acetic Acid | 12 g | C(C(C)C)(=O)OC(C)OC(=O)NCC1(CCCCC1)CC(=O)O | C16H27NO6
